* NMOS with body tied to source
M1 Vout Vin 2 2 NMOS
* Resistors
RD VDD Vout 10k
R2 VDD 2 10k
R1 2 0 10k
RS Vin 0 10k
* Voltage supply
? Missing component
* Model for NMOS (replace with actual model parameters)
.model NMOS NMOS (KP=120u VT0=0.7 GAMMA=0.4 PHI=0.6 LAMBDA=0.02)
* Input/output pins
Vin Vin 0
Vout Vout 0
.end
